US06037356
2. 3-(3-Methylphenylsulfonyl)amino-6-methyl-1-carboxymethyl-2-pyridinone
HCl gas was bubbled through a stirred suspension of 3-(3-methylphenylsulfonyl)amino-6-methyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone (2.0 g, 5.09 mmol), as prepared in the preceding step, in ethyl acetate (50 mL) at 0° C. until a solution was formed. After warming to room temperature over 2 h, a thick suspension was formed. The mixture was degassed with nitrogen and filtered to give the title compound as a white solid (1.36 g, 80%). 1H-NMR (300 MHz, DMSO-d6) δ9.38 (s, 1H), 7.62 (m, 2H), 7.41 (m, 2H), 7.25 (d, 1H, J=8 Hz), 6.09 (d, 1H, J=8 Hz), 4.67 (s, 2H), 2.35 (s, 3H), 2.20 (s, 3H).

reactant | HCl | Cl | ClH
reactant | 3-(3-methylphenylsulfonyl)amino-6-methyl-1-(tert-butoxycarbonylmethyl)-2-pyridinone | 5.09 mmol, 2.0 g | CC=1C=C(C=CC1)S(=O)(=O)NC=1C(N(C(=CC1)C)CC(=O)OC(C)(C)C)=O | C19H24N2O5S
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-(3-Methylphenylsulfonyl)amino-6-methyl-1-carboxymethyl-2-pyridinone | 1.36 g, 80% | CC=1C=C(C=CC1)S(=O)(=O)NC=1C(N(C(=CC1)C)CC(=O)O)=O | C15H16N2O5S
